US05866576
A solution of N-(10-Undecenyl)phthalimide (4.97 g, 16.6 mmol), prepared as discribed above, 4-methylmorpholine-N-oxide (8.62 mL, 60% by wt in water, 50.0 mmol) and potassium osmate dihydrate (58 mg, 0.16 mmol) in 100 mL acetone/water (1:1 by wt) was stirred for 16 hours. Water (100 mL) and sodium sulfite (10 g) were added and the resulting solution stirred for an additional hour. The resulting reaction mixture was extracted with dichloromethane (3×80 mL) and the organic phase dried using magnesium sulfate and evaporated to obtain 3.93 g (71% yield) of N-(10,11-Dihydroxyundecyl)phthalimide (inventive compound no. 1108).

reactant | N-(10-Undecenyl)phthalimide | 16.6 mmol, 4.97 g | C(CCCCCCCCC=C)N1C(C=2C(C1=O)=CC=CC2)=O | C19H25NO2
reactant | 4-methylmorpholine-N-oxide | 50.0 mmol, 8.62 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Water | 100 mL | O | H2O
reactant | sodium sulfite | 10 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone water | 100 mL | CC(=O)C.O
product | N-(10,11-Dihydroxyundecyl)phthalimide | 3.93 g, 71% yield | OC(CCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)CO | C19H27NO4
